US07122682B2
Ammonia gas was condensed in 2 ml water at 0–5° C. and the temperature of the system was maintained at 0–5° C. 0.68 g of methyl (2S)-2-[2-oxo-(4S)-4-propyl-1-pyrrolidinyl]butanoate obtained such as described above was then added dropwise, maintaining the reaction mixture at 0–5° C. The system was then stirred for 6 hrs, with TLC indicating completion of reaction. After standing overnight at ambient temperature the reaction mixture was concentrated at 40° C. under vacuum and further dried by azyeotropic distillation with toluene to give 150 mg of crude (2S)-2-[2-oxo-(4S)-4-propyl-1-pyrrolidinyl]butanamide.

reactant | Ammonia | N | H3N
reactant | methyl (2S)-2-[2-oxo-(4S)-4-propyl-1-pyrrolidinyl]butanoate | 0.68 g | O=C1N(C[C@H](C1)CCC)[C@H](C(=O)OC)CC | C12H21NO3
solvent | water | 2 ml | O | H2O
product | (2S)-2-[2-oxo-(4S)-4-propyl-1-pyrrolidinyl]butanamide | 150 mg | O=C1N(C[C@H](C1)CCC)[C@H](C(=O)N)CC | C11H20N2O2
